US07625914B2
1.2 g (10 mmol) of 4-dimethylaminopyridine are added to a mixture of 24.5 g (65 mmol) of methyl 2(S)-(2-benzoylphenylamino)-3-(4-hydroxyphenyl)propionate and 11 ml (78 mmol) of triethylamine in 220 ml of dichloromethane. The reaction medium is cooled to −78° C. and 13.2 ml (78 mmol) of triflic anhydride are added dropwise. The reaction medium is stirred from −78° C. to room temperature over 4 hours. After addition of saturated ammonium chloride solution, the reaction medium is extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered and evaporated. 33 g (100%) of methyl 2(S)-(2-benzoylphenylamino)-3-(4-trifluoromethanesulfonyloxyphenyl)propanoate are obtained.

reactant | methyl 2(S)-(2-benzoylphenylamino)-3-(4-hydroxyphenyl)propionate | 65 mmol, 24.5 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N[C@H](C(=O)OC)CC1=CC=C(C=C1)O | C23H21NO4
reactant | triethylamine | 78 mmol, 11 ml | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 78 mmol, 13.2 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | 4-dimethylaminopyridine | 10 mmol, 1.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 220 ml | ClCCl | CH2Cl2
product | methyl 2(S)-(2-benzoylphenylamino)-3-(4-trifluoromethanesulfonyloxyphenyl)propanoate | 33 g, 100% | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C24H20F3NO6S
